US05763450
mc) 70.3 g of diethyl 2-(2-chloro-4-iodo-benzoyl)-malonate are heated to boiling under reflux for 6 hrs. while stirring vigorously with 750 ml of water and 0.75 g of p-toluenesulphonic acid. The reaction mixture is cooled to room temperature and extracted three times with 200 ml of diethyl ether each time. The ether phases are washed twice with 200 ml of saturated, aqueous sodium chloride solution each time, dried over magnesium sulphate and concentrated. 53.7 g (92%) of ethyl 3-(2-chloro-4-iodo-phenyl)-3-oxo-propionate are obtained as a yellowish oil. Mass spectrum: peaks inter alia at 352 (M+, 3%), 317 (73%), 289 (19%), 265 (100%).

reactant | diethyl 2-(2-chloro-4-iodo-benzoyl)-malonate | 70.3 g | ClC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=CC(=C1)I | C14H14ClIO5
reactant | p-toluenesulphonic acid | 0.75 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 750 ml | O | H2O
product | ethyl 3-(2-chloro-4-iodo-phenyl)-3-oxo-propionate | 53.7 g, 92% | ClC1=C(C=CC(=C1)I)C(CC(=O)OCC)=O | C11H10ClIO3
